US06936608B2
a) Imidazo[1,2-b][1,2,4]triazine
A stirred mixture of bromoacetaldehyde diethyl acetal (8.88 ml, 57.24 mmol) in concentrated hydrobromic acid (1.7 ml) and water (1.7 ml) was heated at reflux for 20 min, then poured into 1,2-dimethoxyethane (12.5 ml). The solution was neutralised to pH 7 with solid sodium hydrogencarbonate, then filtered. To the filtrate was added [1,2,4]triazin-3-ylamine (5.00 g, 52.03 mmol) and neutralised again with solid sodium hydrogencarbonate. The mixture was stirred at 80° C. for 20 h. After allowing to cool, silica gel was added to the mixture, the solvent was removed in vacuo and the residue was purified by chromatography (silica gel 5% MeOH/CH2Cl2) to give 0.292 g (5%) of the title compound: 1H NMR (360 MHz, DMSO-d6) δ 8.01 (1H, d, J 1.4 Hz), 8.38 (1H, d, J 1.4 Hz), 8.59 (1H, d, J 2.1 Hz), 8.68 (1H, d, J 1.8 Hz); MS (ES+) m/z 121 [M+H]+.

reactant | bromoacetaldehyde diethyl acetal | 57.24 mmol, 8.88 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | 1,2-dimethoxyethane | 12.5 ml | COCCOC | C4H10O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | [1,2,4]triazin-3-ylamine | 52.03 mmol, 5.00 g | N1=NC(=NC=C1)N | C3H4N4
solvent | hydrobromic acid | 1.7 ml | Br | BrH
solvent | water | 1.7 ml | O | H2O
product | Imidazo[1,2-b][1,2,4]triazine | 0.292 g, 5% | N=1N2C(N=CC1)=NC=C2 | C5H4N4
